US07700609B2
2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid (2-amino-ethyl)-amide
(2-{[2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester (138.1 mg, 0.25 mmol) was placed in a 50 mL florentine and cooled in an ice-bath. Premixed TFA/dichloromethane/water (1:4:0.1, 0.5 mL TFA) was added in one portion and the resultant suspension was stirred at 0° C. for 35 minutes. After a further 1.75 hours at room temperature the solution was concentrated under reduced pressure to give a yellow solid. This solid was azeotroped with dichloromethane (3×10 mL), triturated with diethyl ether and isolated by filtration. The solid collected was washed with diethyl ether (3×5 mL) and pentane (3×5 mL) and placed in a drying pistol at 40° C. overnight giving a yellow powder (145.5 mg, 95% yield containing ˜1.5 eq. TFA). MS (ES+) 442. δH (d6 DMSO) 3.0-3.1 (2H, m), 3.5-3.7 (2H, m), 7.3-7.4 (2H, br s), 7.5 (1H, m), 7.6 (1H, m), 7.8-8.1 (5H, m), 8.2-8.3 (1H, m), 8.7-8.9 (3H, m), 9.4 (1H, s), 10.5 (1H, s).

reactant | (2-{[2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 0.25 mmol, 138.1 mg | C(C)(C)(C)OC(NCCNC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1)=O | C24H26N6O5S2
reactant | TFA dichloromethane water | 0.5 mL | C(=O)(C(F)(F)F)O.ClCCl.O
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid (2-amino-ethyl)-amide | 95% yield | NCCNC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1 | C19H18N6O3S2
